US08609656B2
Preparation of 4-(3-dimethylamino-propyl)-3-(trifluoromethyl)aniline
In 6 mL of tetrahydrofuran, 100 mg (0.41 mmol) of 3-(4-nitro-2-(trifluoromethyl)phenyl)propionaldehyde was dissolved, and 405 μL (0.81 mmol) of a 2N dimethylamine methanol solution, 171 mg (0.81 mmol) of sodium triacetoxy borohydride and 100 μL of acetic acid were added thereto and the mixture solution was stirred at room temperature overnight. The reaction solution was partitioned between water and ethyl acetate and the organic layer was washed with a saturated sodium chloride solution and concentrated to form an intermediate. This intermediate was dissolved in 10 mL of methanol and stirred on 10 mg of Pd/C (10%) in a hydrogen atmosphere for 20 hours. The catalyst was removed by filtration and the filtrated was concentrated and the obtained residue was purified by a silica gel column (n-hexane:ethyl acetate=5:1) to obtain 109 mg (quantitative) of a target object as a pale yellow oil.

reactant | 3-(4-nitro-2-(trifluoromethyl)phenyl)propionaldehyde | 0.41 mmol, 100 mg | [N+](=O)([O-])C1=CC(=C(C=C1)CCC=O)C(F)(F)F | C10H8F3NO3
reactant | dimethylamine methanol | 2N | CO.CNC
reactant | sodium triacetoxy borohydride | 0.81 mmol, 171 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
solvent | methanol | 10 mL | CO | CH4O
catalyst | Pd/C | 10 mg | [Pd] | Pd
solvent | acetic acid | 100 μL | C(C)(=O)O | C2H4O2
product | 4-(3-dimethylamino-propyl)-3-(trifluoromethyl)aniline | CN(CCCC1=C(C=C(N)C=C1)C(F)(F)F)C | C12H17F3N2
